US04490369
1-[1-Hydroxy-7,8-dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepin-3-yl]-3-[-methyl-N-(2-{3,4-dimethoxyphenyl}-ethyl)-amino]-propane dihydrochloride
2.45 gm (5 mmols) of 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane were dissolved in a mixture of 100 ml of ether and 50 ml of tetrahydrofuran, and then 0.76 gm of lithium aluminum hydride were added in batches, while stirring. The resulting mixture was refluxed for one hour, cooled with ice water and mixed with 15% ammonium chloride solution. The hydroxide precipitate was suction-filtered off and washed with ether, and the filtrate was concentrated by evaporation. After the free base product thus obtained had been dissolved in acetone, the dihydrochloride was precipitated with methanolic hydrochloric acid.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane | 5 mmols, 2.45 gm | COC1=CC2=C(C(C(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)=O)C=C1OC | C26H34N2O6
reactant | lithium aluminum hydride | 0.76 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | 1-[1-Hydroxy-7,8-dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepin-3-yl]-3-[-methyl-N-(2-{3,4-dimethoxyphenyl}-ethyl)-amino]-propane dihydrochloride | Cl.Cl.OC1CN(CCC2=C1C=C(C(=C2)OC)OC)CCCN(CCC2=CC(=C(C=C2)OC)OC)C | InChI=1S/C26H38N2O5.2ClH/c1-27(13-9-19-7-8-23(30-2)24(15-19)31-3)11-6-12-28-14-10-20-16-25(32-4)26(33-5)17-21(20)22(29)18-28;;/h7-8,15-17,22,29H,6,9-14,18H2,1-5H3;2*1H
